US04804665
8-Benzyloxycarbonyl-2-dimethylamino-2,8-diazaspiro[4,5]decane-1,3-dione
To a solution of (1-benzyloxycarbonyl-4-carboxy-piperidin-4-yl)acetic acid (1.28 g) in dimethylformamide (10 ml) was added dicyclohexylcarbodiimide (0.82 g), and this was followed by 30 minutes of stirring at room temperature. 1,1-Dimethylhydrazine (0.62 ml) was then added, and this was also followed by 30 minutes of stirring at room temperature. The solvent was then evaporated under reduced pressure. To the resulting residual oily compound were added acetic anhydride (10 ml) and then anhydrous sodium acetate (0.33 g), and this was followed by stirring at 100° C. for 30 minutes. The solvents were then evaporated under reduced pressure. The resulting residual substance was dissolved in ethyl acetate (50 ml), and it was washed with a saturated aqueous solution of sodium hydrogen-carbonate and then with water. The organic layer was then dried with anhydrous magnesium sulfate and the solvent was then evaporated under reduced pressure to yield an oily substance. This oily substance was separated by silica gel column chromatography (eluent; methanol-dichloromethane=1:19 (v/v)), and the solvent for the solution containing the desired product was evaporated to obtain 0.71 g of a colorless oil.

reactant | (1-benzyloxycarbonyl-4-carboxy-piperidin-4-yl)acetic acid | 1.28 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)(C(=O)O)CC(=O)O | C16H19NO6
reactant | dicyclohexylcarbodiimide | 0.82 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1,1-Dimethylhydrazine | 0.62 ml | CN(N)C | C2H8N2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 8-Benzyloxycarbonyl-2-dimethylamino-2,8-diazaspiro[4,5]decane-1,3-dione | 0.71 g | C(C1=CC=CC=C1)OC(=O)N1CCC2(CC(N(C2=O)N(C)C)=O)CC1 | C18H23N3O4
